US07501516B2
7-[(2R)-3-(4-acetylpiperazin-1-yl)-2-hydroxypropoxy]-3-cyano-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline
Using an analogous procedure to that described in Example 11, 3-cyano-7-[(2R)-2,3-epoxypropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline was reacted with 1-acetylpiperazine to give the title compound in 35% yield; NMR Spectrum: (DMSOd6) 1.96 (s, 3H), 2.34-2.54 (m, 6H), 3.35-3.45 (m, 4H), 3.94 (s, 3H), 4.0-4.1 (m, 2H), 4.13-4.21 (m, 1H), 4.94 (d, 1H), 5.97 (s, 2H), 6.80-6.92 (m, 3H), 7.23 (s, 1H), 7.76 (s, 1H), 8.4 (s, 1H), 9.49 (s, 1H); Mass Spectrum: M+H+ 520.

reactant | 3-cyano-7-[(2R)-2,3-epoxypropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=CC=C1)OCO2)OC)OC[C@H]2CO2 | C21H17N3O5
reactant | 1-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 7-[(2R)-3-(4-acetylpiperazin-1-yl)-2-hydroxypropoxy]-3-cyano-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline | 35% yield | C(C)(=O)N1CCN(CC1)C[C@H](COC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C2C(=CC=C1)OCO2)OC)O | C27H29N5O6
